US06787650B1
4-[(1-Acetyl-4-piperidinyl)methyl]benzenesulfonyl chloride
To chlorosulfonic acid (92 mL), a solution of 1-acetyl-4-benzylpiperidine (60.00 g) in dichloromethane (100 mL) was dropwise added for an hour at 0° C. under stirring, and the mixture was stirred at 0° C. for 30 minutes and at room temperature for 1.5 hours. The reaction mixture was poured into ice-cooled water (1 L) and extracted with dichloromethane (500 mL, 250 mL). The organic phase was washed with an aqueous solution of 5% sodium carbonate (500 mL×2) and saturated brine (250 mL). The organic phase was dried over magnesium sulfate (anhydrous), and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel 250 g, ethyl acetate). The objective fraction was concentrated under reduced pressure to give the title compound as a white solid (54.22 g).

reactant | chlorosulfonic acid | 92 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1-acetyl-4-benzylpiperidine | 60.00 g | C(C)(=O)N1CCC(CC1)CC1=CC=CC=C1 | C14H19NO
reactant | water | 1 L | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[(1-Acetyl-4-piperidinyl)methyl]benzenesulfonyl chloride | 54.22 g | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)Cl | C14H18ClNO3S
